US07759376B2
In a similar manner to the procedure described above for the preparation of N-(4-bromophenyl)-6-fluoro-1,3-benzothiazol-2-amine, 2-chloro-6-fluoro-benzothiazole and 2-fluoro-4-bromoaniline were reacted together to provide N-(4-bromo-2-fluoro-phenyl)-6-fluoro-1,3-benzothiazol-2-amine as a solid. 1H NMR (DMSO-d6) δ 10.50 (s, 1H), 8.60 (t, 1H), 7.80 (d, 1H), 7.60 (m, 2H), 7.40 (d, 1H), 7.20 (m, 1H)).

reactant | N-(4-bromophenyl)-6-fluoro-1,3-benzothiazol-2-amine | BrC1=CC=C(C=C1)NC=1SC2=C(N1)C=CC(=C2)F | C13H8BrFN2S
reactant | 2-chloro-6-fluoro-benzothiazole | ClC=1SC2=C(N1)C=CC(=C2)F | C7H3ClFNS
reactant | 2-fluoro-4-bromoaniline | FC1=C(N)C=CC(=C1)Br | C6H5BrFN
product | N-(4-bromo-2-fluoro-phenyl)-6-fluoro-1,3-benzothiazol-2-amine | BrC1=CC(=C(C=C1)NC=1SC2=C(N1)C=CC(=C2)F)F | C13H7BrF2N2S
